US06268387B1
3-Amino-4-methoxy-N-(3,4-dichlorophenyl)-benzamide
Prepared according to the procedure described for Example 1 using oxalyl chloride (5.0 mL, 57.31 mmol), 3-nitro-4-methoxybenzoic acid (5.04 g, 25.56 mmol), dimethylformamide (0.5 mL, 6.46 mmol), and 3,4-dichloroaniline (8.3 g, 51 mmol) to afford the product (5.45 g); m.p. 179-182° C.

reactant | oxalyl chloride | 57.31 mmol, 5.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-nitro-4-methoxybenzoic acid | 25.56 mmol, 5.04 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1OC | C8H7NO5
reactant | dimethylformamide | 6.46 mmol, 0.5 mL | CN(C=O)C | C3H7NO
reactant | 3,4-dichloroaniline | 51 mmol, 8.3 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
product | 3-Amino-4-methoxy-N-(3,4-dichlorophenyl)-benzamide | 5.45 g | NC=1C=C(C(=O)NC2=CC(=C(C=C2)Cl)Cl)C=CC1OC | C14H12Cl2N2O2
